US06362177B1
EDCI (10.7 mg), 1-hydroxybenzotriazole hydrate (7.5 mg), Et3N (15.4 mg), 0.5 M NH3 in dioxane (0.1 mL, 0.05 mmol) and DMF (0.5 mL) were added to a solution of 1-(3-carboxybenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (19.4 mg, 0.041 mmol) in CHCl3 (2.5 mL). The reaction mixture was stirred at 25° C. for 20 h, washed with 2 N aqueous NaOH (2×2 mL) and brine (1 mL). After filtration through PTFE membrane filter, the solvent was removed under reduced pressure to afford 1-(3-carbamoylbenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (compound No. 924) as a pale yellow solid (17.9 mg, 92%): The purity was determined by RPLC/MS (89%); ESI/MS m/e 447.3 (M++H, C24H27F3N4O3).

reactant | EDCI | 10.7 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole hydrate | 7.5 mg | O.ON1N=NC2=C1C=CC=C2
reactant | NH3 | 0.5 M | N | H3N
reactant | dioxane | 0.05 mmol, 0.1 mL | O1CCOCC1 | C4H8O2
reactant | 1-(3-carboxybenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | 0.041 mmol, 19.4 mg | C(=O)(O)C=1C=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=CC1 | C24H26F3N3O4
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | CHCl3 | 2.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Et3N | 15.4 mg | CCN(CC)CC | C6H15N
product | 1-(3-carbamoylbenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | C(N)(=O)C=1C=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=CC1 | C24H27F3N4O3
